US07550484B2
To a cold (−78° C.) solution of N,N,N′,N′-tetramethylethylenediamine (TMEDA) (4.06 mL, 26.9 mmol) in dry THF (50 mL) under an atmosphere of Ar was added n-BuLi (2.5 M in hexanes, 10.7 mL, 26.9 mmol). 2-Bromo-3-methylpyridine (3.0 mL, 26.9 mmol) was added dropwise and the temperature was raised to −55° C. for 30 minutes. The reaction mixture turned red. It was then cooled to −78° C. and dimethyl glutarate (1.65 mL, 11.2 mmol) was added. The reaction mixture was stirred at −78° C. for 1 h. Water (200 mL) was added and the mixture was extracted with CH2Cl2 (3 times 200 mL). The combined organic extracts were washed with brine (200 mL), were dried over mgSO4, filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (1:1 EtOAc:hexanes) to provide 1.5 g (48%) of 1,5-bis-(3-methyl-pyridin-2-yl)-pentane-1,5-dione as a white solid. 1H NMR(CDCl3) δ 2.00 (p, 2H, J=7.5 Hz), 2.44 (s, 6H), 3.19 (t, 4H, J=7.5 Hz), 7.18 (dd, 2H, J=7.8, 4.2 Hz), 7.43 (d, 2H, J=7.8 Hz), 8.33 (d, 2H, J=4.2 Hz).

reactant | N,N,N′,N′-tetramethylethylenediamine | 26.9 mmol, 4.06 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-BuLi | 26.9 mmol, 2.5 M, 10.7 mL | [Li]CCCC
reactant | 2-Bromo-3-methylpyridine | 26.9 mmol, 3.0 mL | BrC1=NC=CC=C1C | C6H6BrN
reactant | dimethyl glutarate | 11.2 mmol, 1.65 mL | C(CCCC(=O)OC)(=O)OC | C7H12O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | 200 mL | O | H2O
product | 1,5-bis-(3-methyl-pyridin-2-yl)-pentane-1,5-dione | 1.5 g, 48% | CC=1C(=NC=CC1)C(CCCC(=O)C1=NC=CC=C1C)=O | C17H18N2O2
